US06252076B1
23 ml of triethylamine and 16 g (108.5 mmole) of (R)-(+)-1-methyl-1,2,3,4-tetrahydroisoquinoline as prepared in Example 10 were added to 75 ml of ethylene glycol. 25.7 g (101.8 mmole) of 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine was added thereto and the mixture thereby obtained was reacted at 135° C. for 28 hours under refluxing to prepare (R)-(+)-5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine. This product was treated according to the procedure detailed in Example 24 to obtain 33 g of purified 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride.

reactant | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-(+)-1-methyl-1,2,3,4-tetrahydroisoquinoline | 108.5 mmole, 16 g | C[C@H]1NCCC2=CC=CC=C12 | C10H13N
reactant | 4-chloro-2-(4-fluorophenylamino)-5,6-dimethylpyrimidine | 101.8 mmole, 25.7 g | ClC1=NC(=NC(=C1C)C)NC1=CC=C(C=C1)F | C12H11ClFN3
reactant | (R)-(+)-5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1[C@@H](C2=CC=CC=C2CC1)C | C22H23FN4
solvent | ethylene glycol | 75 ml | C(CO)O | C2H6O2
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-pyrimidine hydrochloride | 33 g, Yield: 81.1% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C22H23FN4.ClH/c1-14-15(2)24-22(25-19-10-8-18(23)9-11-19)26-21(14)27-13-12-17-6-4-5-7-20(17)16(27)3;/h4-11,16H,12-13H2,1-3H3,(H,24,25,26);1H
